US04639521
4-Cyano-2,3,5,6,7,8-hexahydro-1-methyl-3-oxo-7-(4-pyridyl)isoquinoline (0.5 g) was dissolved in 85% sulfuric acid, and the solution was heated under reflux at 180°-200° C. for 5 hours. After cooling the reaction mixture was poured into ice water. Deposited crystals were filtered out and then purified to obtain 0.38 g of 2,3,5,6,7,8-hexahydro-1-methyl-3-oxo-7-(4-pyridyl)isoquinoline.

reactant | 4-Cyano-2,3,5,6,7,8-hexahydro-1-methyl-3-oxo-7-(4-pyridyl)isoquinoline | 0.5 g | C(#N)C=1C(NC(=C2CC(CCC12)C1=CC=NC=C1)C)=O | C16H15N3O
solvent | sulfuric acid | S(O)(O)(=O)=O | H2O4S
product | 2,3,5,6,7,8-hexahydro-1-methyl-3-oxo-7-(4-pyridyl)isoquinoline | 0.38 g | CC=1NC(C=C2CCC(CC12)C1=CC=NC=C1)=O | C15H16N2O
